US03939278
A mixture of 34.5 g of 4'-(2-fluorophenoxy)acetophenone, 41.6 g of phosphorus pentachloride, and 80 ml of phosphorus oxychloride was heated at 60° for 20 hours. The reaction mixture was cooled and volatile materials were distilled in vacuo. The crude 4-(2-fluorophenoxy)-α-chlorostyrene which remained was diluted with benzene which was removed by distillation; the dilution-distillation procedure was repeated three times. The residue then was dissolved in tetrahydrofuran. The resulting solution was added dropwise to a solution of sodium amide in ammonia prepared by adding 23 g of sodium to 750 ml of liquid ammonia containing several mg of ferric chloride. The reaction solution was agitated overnight after adding 375 ml of diethyl ether. The reaction solution then was diluted successively with 150 ml of saturated aqueous ammonium chloride solution and 100 ml of water. The resulting mixture was poured onto ice. The organic layer was separated and the aqueous layer extracted successively with diethyl ether and ethyl acetate. The organic layer and organic extracts were combined and washed successively with water, five percent aqueous hydrochloric acid, and water, and dried over anhydrous sodium sulfate. The organic solvents were distilled under reduced pressure and the residue was vacuum distilled to give [3-(2-fluorophenoxy)phenyl]acetylene, bp 93°-96°/0.2 mm. The following elemental analysis was obtained:

reactant | 4'-(2-fluorophenoxy)acetophenone | 34.5 g | FC1=C(OC2=CC=C(C=C2)C(C)=O)C=CC=C1 | C14H11FO2
reactant | phosphorus pentachloride | 41.6 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 80 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium | 23 g | [Na] | Na
reactant | ammonia | N | H3N
reactant | diethyl ether | 375 ml | C(C)OCC | C4H10O
solvent | ammonium chloride | 150 ml | [Cl-].[NH4+]
solvent | water | 100 ml | O | H2O
product | [3-(2-fluorophenoxy)phenyl]acetylene | FC1=C(OC=2C=C(C=CC2)C#C)C=CC=C1 | C14H9FO
